US04518597
6-[4-(2-Pyridylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one and 2-mercaptopyridine.

reactant | 6-(4-chlorobutoxy)-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C15H20ClNO3
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | 6-[4-(2-Pyridylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | N1=C(C=CC=C1)SCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C20H24N2O3S
